US04070309
lauric isopropanol amide;
myristic acid amide of 3-amino-3-methyl-2,4-pentanediol.

reactant | myristic acid amide | C(CCCCCCCCCCCCC)(=O)N | C14H29NO
reactant | 3-amino-3-methyl-2,4-pentanediol | NC(C(C)O)(C(C)O)C | C6H15NO2
product | lauric isopropanol amide | CCCCCCCCCCCC(=O)NC(C)(C)O | C15H31NO2
